### PR TITLE
[Merged by Bors] - feat: more API for AddMonoidAlgebra.supDegree / leadingCoeff / Monic

### PR DESCRIPTION
**Pull request by alreadydone**
Infrastructure for working with [monomial orders](https://en.wikipedia.org/wiki/Monomial_order) on MvPolynomial rings. The lexicographic order is used in #6593 (proof of the fundamental theorem of symmetric polynomials)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 1]
```diff
@@ -222,35 +223,306 @@ variable [Semiring R]
...
+type of (monic) monomials in `R[A]` that respects addition). We make use of this monomial order
+by taking `D := toLex`, and different monomial orders could be accessed via different type
+synonyms once they are added. -/
+@[reducible] def supDegree (f : AddMonoidAlgebra R A) : B := f.support.sup D
 
-theorem supDegree_add_le (f g : AddMonoidAlgebra R A) :
+/-- If `D` is an injection into a linear order `B`, the leading coefficient of `f : R[A]` is the
+  nonzero coefficient of highest degree according to `D`, or 0 if `f = 0`. In general, it is defined
+  to be the coefficient at an inverse image of `supDegree f`. -/
+noncomputable def leadingCoeff (f : AddMonoidAlgebra R A) : R := f (D.invFun <| f.supDegree D)
```
Comment (alreadydone) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:251]: If we only ever take `B := Lex A` or some other type synonym, then we could always take `D` to be an `Equiv`, and then we can use `D.symm` rather than `D.invFun` to define `leadingCoeff`, which would be more convenient at places. However, @adomani [said](https://github.com/leanprover-community/mathlib4/pull/6260#issuecomment-1680236710) he'd like to consider `B := WithBot (Lex A)` to obtain the analogue of `Polynomial.degree` which he thinks is superior to `natDegree`. Personally, I've found `B := Lex A` and `natDegree` convenient to work with, and `WithBot ...` never enjoys the nice cancellative property.   However, I understand a `bot` must be adjoined for something like the Laurent polynomial ring. Fortunately, most results here works for `D` injective but not bijective.

**Review by adomani — COMMENTED** [review]
This is really great!  I find the simplifications arising in MvPolynomials are a great sign that defining "degree"s at the level of `AddMonoidAlgebra`s is a step in the right directions!

Did you try seeing if [Polynomial.Monic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/Degree/Definitions.html#Polynomial.Monic) could be deduplicated with the newly introduced one?

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:251]: I think that it would be safe to wait a little bit longer, before choosing to specialise the definition of degree.  I imagine that "total degree" of a MvPolynomial could benefit from the flexibility.  Also, if we end up working with [elimination ideals](https://pi.math.cornell.edu/~dmehrle/notes/old/alggeo/18Elimination.pdf), I imagine that we will want to use only a subset of the variables to compare monomials.  Or maybe we want to assign arbitrary weights to the variables...  I feel that *most* of the times, `B` is going to be a (type synonym of) `A`, but some-not-so-few times, it may not.

**Comment by alreadydone** [comment]
> This is really great!  I find the simplifications arising in MvPolynomials are a great sign that defining "degree"s at the level of `AddMonoidAlgebra`s is a step in the right directions!

Yeah actually most of the golfs in Variables.lean was already enabled by your previous PRs; you may not have looked into that file but in any case you made a good choice to use `Finset.sup` to define `supDegree`!

> Did you try seeing if [Polynomial.Monic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/Degree/Definitions.html#Polynomial.Monic) could be deduplicated with the newly introduced one?

The main obstacle is [Polynomial](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/Basic.html#Polynomial) is not defeq to [AddMonoidAlgebra](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/MonoidAlgebra/Basic.html#AddMonoidAlgebra) R [ℕ](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Nat) but a structure with a single field. I think there's no harm making them defeq except maybe potential timeouts. This PR just develop API for AddMonoidAlgebra and the fundamental theorem proof applies them directly to MvPolynomial without explicitly transferring the API (apart from [three lemmas](https://github.com/leanprover-community/mathlib4/pull/7173/files#diff-44a6991ac2378d95670e90022cfa47893ba843ebb7f8d4aa1dbd3082d54c5ac5R805-R816)), so the proof is abusing the non-reducible defeq in some sense, but it works without trouble.

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 2]
```diff
@@ -222,35 +223,306 @@ variable [Semiring R]
...
-using the maximum of the exponents. -/
-@[reducible]
-def supDegree (f : AddMonoidAlgebra R A) : B :=
-  f.support.sup D
+using the maximum of the exponents.
+
+If `A := σ →₀ ℕ` then `R[A] = MvPolynomial σ R`, and if we equip `σ` with a linear order then
+the induced linear order on `Lex A` equips `MvPolynomial` ring with a
+[monomial order](https://en.wikipedia.org/wiki/Monomial_order) (i.e. a linear order on `A`, the
+type of (monic) monomials in `R[A]`, that respects addition). We make use of this monomial order
```
Comment (alreadydone) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:243]: @adomani I think I'm still talking about the order on `A` here, so it would be appropriate to talk about addition on `A`, rather than multiplication on the type of monomials; I added a comma to clarify this. Maybe I should say "the type representing monomials in R[A]" or something like that.

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean]: Ok, I would probably need to experiment with this.  I can see that it would be easier to always assume that `B` is a type synonym of `A` and `D` is basically the identity.

If, with the current setup, we have to jump through too many hoops, we can always try the following workaround for the cases that I have in mind.  We build the final `MvPolynomial` ring in two steps, first adding all the variables that we do not want to be part of the degree and then all the remaining ones.  E.g. if we want to use as "degree" the degree in `x, y`, but not in `y z`, then we form `R[y, z][x, y]` (I'm mixing formal and informal notation here).  I'm not sure how to work with general weights, but maybe we can worry about this when we use them!

**Comment by adomani** [comment]
I had not been exhaustive about golfing, since I wanted to not clutter too much the PR with the definition.  I'm very happy that, now that the definitions are in, they simplify proofs!

With respect to the divide between `Polynomial, MvPolynomial, Finsupp`, Eric and I had a quick chat about it and we both think that `AddMonoidAlgebra` should be the breaking point, not `Polynomial`.  That it where the `Finsupp` type acquires the alternative multiplication and it makes sense to make that one the `structure` instead of the next layer up, `Polynomial`s.

I'm not sure that I have the strength to embark in such a refactor though, certainly not so close to the beginning of my teaching term!

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 3]
```diff
@@ -222,35 +223,301 @@ variable [Semiring R]
...
+
+lemma sum_ne_zero_of_injOn_supDegree (hs : s ≠ ∅)
+    (hf : ∀ i ∈ s, f i ≠ 0) (hd : (s : Set ι).InjOn (supDegree D ∘ f)) :
+    ∑ i in s, f i ≠ 0 :=
+  let ⟨i, hi⟩ := Finset.nonempty_iff_ne_empty.2 hs
+  sum_ne_zero_of_injOn_supDegree' ⟨i, hi, hf i hi⟩ hd
+
+variable (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
+
+private lemma mem_srange_iff {b : B} : b ∈ AddHom.srange ⟨D, hadd⟩ ↔ b ∈ Set.range D := Iff.rfl
```
Comment (jcommelin) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:452]: Please move this next to the definition of `srange`.

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean]: According to the [WeightedHomogeneous](https://github.com/leanprover-community/mathlib4/blob/193761250a9869327056b499a7f49d676ed5e3a9/Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean) API, maybe we won't take a type synonym to get the other monomial orders; since all monomial orders can be obtained using [multiple weights](https://en.wikipedia.org/wiki/Monomial_order#Weight_order), a general approach would be taking `B := Fin m → ℕ` (or `ℝ`) and `D` consisting of `m` weighting functions. As long as we have enough weighting functions to break all ties, `D` would be injective and most of the API here apply.

If `D` isn't injective like in the case of elimination ideals you're considering, `supDegree` should still work but we probably shouldn't be using `leadingCoeff` to return a single coefficient (we probably want the "homogeneous component" instead).

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 4]
```diff
@@ -222,35 +223,301 @@ variable [Semiring R]
...
+noncomputable def leadingCoeff (f : R[A]) : R := f (D.invFun <| f.supDegree D)
+
+/-- An element `f : R[A]` is monic if its leading coefficient is one. -/
+@[reducible] def Monic (f : R[A]) : Prop := f.leadingCoeff D = 1
+
+variable {D}
+
+theorem supDegree_add_le {f g : R[A]} :
     (f + g).supDegree D ≤ (f.supDegree D) ⊔ (g.supDegree D) :=
   sup_support_add_le D f g
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:260]: Note that this one is first proved without the `supDegree` wrapper in a previous file; arguably the `neg`/`sub`/`sum` lemmas should be handled in the same way.

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 5]
```diff
@@ -222,35 +223,301 @@ variable [Semiring R]
...
+type of (monic) monomials in `R[A]`, that respects addition). We make use of this monomial order
+by taking `D := toLex`, and different monomial orders could be accessed via different type
+synonyms once they are added. -/
+@[reducible] def supDegree (f : R[A]) : B := f.support.sup D
 
-theorem supDegree_add_le (f g : R[A]) :
+/-- If `D` is an injection into a linear order `B`, the leading coefficient of `f : R[A]` is the
+  nonzero coefficient of highest degree according to `D`, or 0 if `f = 0`. In general, it is defined
+  to be the coefficient at an inverse image of `supDegree f` (if such exists). -/
+noncomputable def leadingCoeff (f : R[A]) : R := f (D.invFun <| f.supDegree D)
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:251]: Do you have a use-case in mind where you don't know the inverse of `D`? If not, then I think taking an `Equiv` would make more sense here

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:260]: It's proved in the same file. I think I can just remove `sup_support_add_le`.

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:251]: @adomani may have some use cases in mind where `D := WithBot.some` (injective but not Equiv), which would produce something like `Polynomial.degree` rather than `natDegree`. This is necessary for Laurent polynomials, where `A = ℤ` doesn't have a `bot` so we'd have to adjoin one to use `Finset.sup`. When `D` is not injective then the current definition is not well-behaved and shouldn't be used IMO.

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:260]: Hmm @adomani what do you think of moving `sup/infDegree` to the top of the file and replace all `.support.sup` by `supDegree`?

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:251]: It's also not that well behaved for `d = id` on `A = Prod Nat Nat`, right? The leading coefficient of `X + Y + 1` is `0`, since the `sup` gives the coefficient of `X*Y`?

Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:251]: Yeah, I should have said `leadingCoeff` is also not intended to be used when `B` isn't a linear order.

Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:251]: I think if that's the case we should probably just write that assumption for the lemmas about `leadingCoeff`

Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:251]: Currently, only four lemmas `leadingCoeff_single, leadingCoeff_zero, Monic.ne_zero, monic_one` about `leadingCoeff` and `Monic` don't assume `LinearOrder`. Do you mean that you want to replace `SemilatticeSup B` in the definitions of `leadingCoeff` and `Monic` by `LinearOrder B`?

Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:251]: Yes, I think we should change those definitions to assume `LinearOrder B`

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 4 above)
Comment (adomani) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:260]: I like this idea!

This file grew out of an attempt at defining *as late as possible* the new "degrees", just because their definition was still in discussion.  Now that the definition is "accepted", I'm all in favour of using it as soon as we can!

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 6]
```diff
@@ -222,35 +223,299 @@ variable [Semiring R]
...
+
+lemma Monic.mul (hp : p.Monic D) (hq : q.Monic D) : (p * q).Monic D := by
+  rw [Monic, hq.leadingCoeff_mul hD hadd]; exact hp
+
+section AddMonoid
+
+variable {A B : Type*} [AddMonoid A] [AddMonoid B] [LinearOrder B] [OrderBot B]
+  [CovariantClass B B (· + ·) (· < ·)] [CovariantClass B B (Function.swap (· + ·)) (· < ·)]
+  {D : A → B} (hzero : D 0 = 0) (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
+  (hD : Function.Injective D) {p : R[A]} {n : ℕ}
```
Comment (alreadydone) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:497]:
```suggestion
  (hD : D.Injective) {p : R[A]} {n : ℕ}
```

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:251]: I'll change `leadingCoeff` and `Monic` to use `LinearOrder` but I think I'll keep D a plain function. `Equiv` wouldn't be convenient for the [weighted order](https://github.com/leanprover-community/mathlib4/pull/7173#discussion_r1329081072) I mentioned and for Laurent polynomials. I'll add two lemmas saying that you can use any left inverse to `D` in place of `D.invFun` if `D` is injective, and that when `D` is an `Equiv` you can use `D.symm`. (We could consider bundling injectivity of D into `Embedding` but that doesn't seem convenient either.)

**Comment by alreadydone** [comment]
I've noticed that the module docstring currently refers to some non-existent `maxDegree` and doesn't completely match current implementation, so I'm doing a complete revision.

**Comment by YaelDillies** [comment]
Is this still supposed to be `awaiting-author`?

**Comment by alreadydone** [comment]
Maybe I should mark this as please-adopt :)

It's been too long and I may not recall everything perfectly, but [this](https://github.com/leanprover-community/mathlib4/pull/7173#discussion_r1329180356) and [this](https://github.com/leanprover-community/mathlib4/pull/7173#discussion_r1331215894) should be the two main tasks remaining to be done, and [this unresolved comment](https://github.com/leanprover-community/mathlib4/pull/7173#discussion_r1329081072) is related to the second. I think addressed [this comment](https://github.com/leanprover-community/mathlib4/pull/7173#issuecomment-1732473378) in https://github.com/leanprover-community/mathlib4/commit/98a0f6e0638c64a9004477b4e36f75cfb254741e.

File: Mathlib/Algebra/Group/Subsemigroup/Operations.lean [hunk 7]
```diff
@@ -591,6 +591,9 @@ theorem coe_srange (f : M →ₙ* N) : (f.srange : Set N) = Set.range f :=
 theorem mem_srange {f : M →ₙ* N} {y : N} : y ∈ f.srange ↔ ∃ x, f x = y :=
   Iff.rfl
 
+@[to_additive] theorem mem_srange_mk {f : M → N} (hf : ∀ a b, f (a * b) = f a * f b) {y : N} :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Subsemigroup/Operations.lean:594]:
```suggestion
@[to_additive] theorem mem_srange_mk {f : M → N} (hf) {y : N} :
```
makes it clearer that it's inferred

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean]: @alreadydone what do you want me to do with your last comment here?

File: Mathlib/Algebra/Group/Subsemigroup/Operations.lean [hunk 8]
```diff
@@ -595,6 +595,9 @@ theorem coe_srange (f : M →ₙ* N) : (f.srange : Set N) = Set.range f :=
 theorem mem_srange {f : M →ₙ* N} {y : N} : y ∈ f.srange ↔ ∃ x, f x = y :=
   Iff.rfl
 
+@[to_additive] theorem mem_srange_mk {f : M → N} (hf) {y : N} :
+    y ∈ srange ⟨f, hf⟩ ↔ y ∈ Set.range f := Iff.rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Subsemigroup/Operations.lean:599]:
```suggestion
@[to_additive (attr := simp)] theorem srange_mk (f : M → N) (hf) :
    srange ⟨f, hf⟩ = ⟨Set.range f, _⟩ := rfl
```
seems more appropriate. See eg [`Prod.mk_add_mk`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Prod.html#Prod.mk_add_mk)

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 9]
```diff
@@ -256,6 +264,10 @@ theorem supDegree_withBot_some_comp {s : AddMonoidAlgebra R A} (hs : s.support.N
   unfold AddMonoidAlgebra.supDegree
   rw [← Finset.coe_sup' hs, Finset.sup'_eq_sup]
 
+theorem supDegree_eq_of_isMaxOn {p : R[A]} {a : A} (hmem : a ∈ p.support)
+    (hmax : IsMaxOn D p.support a) : p.supDegree D = D a :=
+  (Finset.sup_le hmax).antisymm (Finset.le_sup hmem)
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:269]: This is a general lemma about `Finset.sup`. Can we have it?

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 10]
```diff
@@ -266,6 +278,13 @@ theorem ne_zero_of_supDegree_ne_bot : p.supDegree D ≠ ⊥ → p ≠ 0 := mt (f
 theorem ne_zero_of_not_supDegree_le {b : B} (h : ¬ p.supDegree D ≤ b) : p ≠ 0 :=
   ne_zero_of_supDegree_ne_bot (fun he => h <| he ▸ bot_le)
 
+theorem supDegree_eq_of_max {b : B} (hb : b ∈ Set.range D) (hmem : D.invFun b ∈ p.support)
+    (hmax : ∀ a ∈ p.support, D a ≤ b) : p.supDegree D = b := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:282]: Same here

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 11]
```diff
@@ -309,6 +328,199 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+  Finset.exists_mem_eq_sup _ (Finsupp.support_nonempty_iff.mpr hp) D
+
+variable (D) in
+lemma supDegree_mem_range (hp : p ≠ 0) : p.supDegree D ∈ Set.range D := by
+  obtain ⟨a, -, he⟩ := exists_supDegree_mem_support D hp; exact ⟨a, he.symm⟩
+
+variable {ι : Type*} {s : Finset ι} {i : ι} (hi : i ∈ s) {f : ι → R[A]}
+
+lemma supDegree_sum_lt (hs : s.Nonempty) {b : B}
+    (h : ∀ i ∈ s, (f i).supDegree D < b) : (∑ i in s, f i).supDegree D < b := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:374]:
```suggestion
    (h : ∀ i ∈ s, (f i).supDegree D < b) : (∑ i ∈ s, f i).supDegree D < b := by
```

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 12]
```diff
@@ -308,6 +309,25 @@ theorem mem_vars_rename (f : σ → τ) (φ : MvPolynomial σ R) {j : τ} (h : j
 
 end EvalVars
 
+section Lex
+
+variable [LinearOrder σ]
+
+lemma leadingCoeff_eq : p.leadingCoeff toLex = p.coeff (ofLex <| p.supDegree toLex) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/MvPolynomial/Variables.lean:316]:
```suggestion
lemma leadingCoeff_toLex : p.leadingCoeff toLex = p.coeff (ofLex <| p.supDegree toLex) := by
```
no?

File: Mathlib/Algebra/Group/Subsemigroup/Operations.lean (hunk 8 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Group/Subsemigroup/Operations.lean:611]: I added this, but it doesn't work in `Monic.supDegree_mul_of_ne_zero`, where we're rewriting backwards to prove `supDegree D p + supDegree D q ∈ Set.range D`

Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Group/Subsemigroup/Operations.lean:611]: Alternative proof was manually doing
```lean
  · have hp' := supDegree_mem_range D hp
    have hq' := supDegree_mem_range D hq.ne_zero
    rw [Set.mem_range] at *
    obtain ⟨p', hp'⟩ := hp'
    obtain ⟨q', hq'⟩ := hq'
    use p' + q'
    rw [hadd, hp', hq']
```

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Subsemigroup/Operations.lean:611]: Fixed

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 13]
```diff
@@ -309,6 +325,199 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+
+theorem leadingCoeff_single [Nonempty A] (hD : D.Injective) (a : A) (r : R) :
+    (single a r).leadingCoeff D = r := by
+  classical
+  rw [leadingCoeff, supDegree_single]
+  split_ifs with hr
+  · simp [hr]
+  · rw [Function.leftInverse_invFun hD, single_apply, if_pos rfl]
+
+theorem leadingCoeff_zero [Nonempty A] : (0 : R[A]).leadingCoeff D = 0 := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:352]: simp?

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 14]
```diff
@@ -309,6 +325,199 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+noncomputable def leadingCoeff [Nonempty A] (f : R[A]) : R :=
+  f (D.invFun <| f.supDegree D)
+
+/-- An element `f : R[A]` is monic if its leading coefficient is one. -/
+@[reducible] def Monic [Nonempty A] (f : R[A]) : Prop :=
+  f.leadingCoeff D = 1
+
+variable {D}
+
+theorem leadingCoeff_single [Nonempty A] (hD : D.Injective) (a : A) (r : R) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:344]: simp? Surely `Injective D` will be available to simp in concrete cases

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 15]
```diff
@@ -309,6 +325,199 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+  split_ifs with hr
+  · simp [hr]
+  · rw [Function.leftInverse_invFun hD, single_apply, if_pos rfl]
+
+theorem leadingCoeff_zero [Nonempty A] : (0 : R[A]).leadingCoeff D = 0 := rfl
+
+lemma Monic.ne_zero [Nonempty A] [Nontrivial R] (hp : p.Monic D) : p ≠ 0 := fun h => by
+  simp_rw [Monic, h, leadingCoeff_zero, zero_ne_one] at hp
+
+theorem monic_one [AddZeroClass A] (hD : D.Injective) : (1 : R[A]).Monic D := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:357]: simp?

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 16]
```diff
@@ -309,6 +325,199 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+  rw [leadingCoeff, supDegree_add_eq h, Finsupp.add_apply, ← leadingCoeff,
+      apply_eq_zero_of_not_le_supDegree (D := D), add_zero]
+  rw [← he, Function.apply_invFun_apply (f := D), he]; exact h.not_le
+
+lemma supDegree_mem_support (hD : D.Injective) (hp : p ≠ 0) :
+    D.invFun (p.supDegree D) ∈ p.support := by
+  obtain ⟨a, ha, he⟩ := exists_supDegree_mem_support D hp
+  rw [he, Function.leftInverse_invFun hD]; exact ha
+
+lemma leadingCoeff_eq_zero (hD : D.Injective) : p.leadingCoeff D = 0 ↔ p = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:398]: simp?

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 17]
```diff
@@ -309,6 +325,199 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+  by_cases he : p = q; · exact Or.inr he
+  refine Or.inl ((supDegree_sub_le.trans ?_).lt_of_ne ?_)
+  · rw [hd, sup_idem]
+  · rw [← sub_eq_zero, ← leadingCoeff_eq_zero hD, leadingCoeff] at he
+    refine fun h => he ?_
+    rwa [h, Finsupp.sub_apply, ← leadingCoeff, hd, ← leadingCoeff, sub_eq_zero]
+
+lemma supDegree_leadingCoeff_sum_eq
+    (hi : i ∈ s) (hmax : ∀ j ∈ s, j ≠ i → (f j).supDegree D < (f i).supDegree D) :
+    (∑ j in s, f j).supDegree D = (f i).supDegree D ∧
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:415]: Here and everywhere else, please use the new syntax
```suggestion
    (∑ j ∈ s, f j).supDegree D = (f i).supDegree D ∧
```

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 18]
```diff
@@ -309,6 +325,203 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+lemma supDegree_sum_lt (hs : s.Nonempty) {b : B}
+    (h : ∀ i ∈ s, (f i).supDegree D < b) : (∑ i ∈ s, f i).supDegree D < b := by
+  refine supDegree_sum_le.trans_lt ((Finset.sup_lt_iff ?_).mpr h)
+  obtain ⟨i, hi⟩ := hs; exact bot_le.trans_lt (h i hi)
+
+variable [AddZeroClass A]
+
+open Finsupp in
+lemma supDegree_add_eq (h : q.supDegree D < p.supDegree D) :
+    (p + q).supDegree D = p.supDegree D := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:382]:
```suggestion
lemma supDegree_add_eq_left (h : q.supDegree D < p.supDegree D) :
    (p + q).supDegree D = p.supDegree D := by
```
and can we have `supDegree_add_eq_right` as well?

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 19]
```diff
@@ -309,6 +325,203 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+  apply (supDegree_add_le.trans <| sup_le le_rfl h.le).antisymm
+  obtain ⟨a, ha, he⟩ := exists_supDegree_mem_support D (ne_zero_of_not_supDegree_le h.not_le)
+  rw [he] at h ⊢; apply Finset.le_sup
+  rw [mem_support_iff, add_apply, apply_eq_zero_of_not_le_supDegree h.not_le, add_zero]
+  exact mem_support_iff.mp ha
+
+lemma leadingCoeff_add_eq (h : q.supDegree D < p.supDegree D) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:389]: Same here

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 20]
```diff
@@ -309,6 +325,203 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+
+lemma Monic.supDegree_mul
+    (hD : D.Injective) (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
+    (hbot : (⊥ : B) + ⊥ = ⊥) (hp : p.Monic D) (hq : q.Monic D) :
+    (p * q).supDegree D = p.supDegree D + q.supDegree D := by
+  cases subsingleton_or_nontrivial R
+  · simp_rw [Subsingleton.eq_zero p, Subsingleton.eq_zero q, mul_zero, supDegree_zero, hbot]
+  exact hq.supDegree_mul_of_ne_zero hD hadd hp.ne_zero
+
+lemma Monic.leadingCoeff_mul
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:488]:
```suggestion
lemma Monic.leadingCoeff_mul_eq_left
```
and same again

**Review by YaelDillies — COMMENTED** [review]
Thanks to you for taking over it!

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 21]
```diff
@@ -477,25 +486,48 @@ lemma Monic.supDegree_mul_of_ne_zero
...
+    (hp : p.Monic D) (hq : q ≠ 0) :
+    (p * q).supDegree D = p.supDegree D + q.supDegree D := by
+  cases subsingleton_or_nontrivial R; · exact (hq (Subsingleton.elim _ _)).elim
+  apply supDegree_eq_of_max
+  · rw [← AddSubsemigroup.coe_set_mk (Set.range D), ← AddHom.srange_mk _ hadd, SetLike.mem_coe]
+    exact add_mem (supDegree_mem_range D hp.ne_zero) (supDegree_mem_range D hq)
+  · simp_rw [Finsupp.mem_support_iff, apply_supDegree_add_supDegree hD hadd, hp, one_mul,
+      Ne, leadingCoeff_eq_zero hD, hq, not_false_eq_true]
+  · have := covariantClass_le_of_lt B B (· + ·)
+    have := covariantClass_le_of_lt B B (Function.swap (· + ·))
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:500]: Is this really needed?

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 22]
```diff
@@ -309,6 +325,236 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+    (hf : ∀ i ∈ s, f i ≠ 0) (hd : (s : Set ι).InjOn (supDegree D ∘ f)) :
+    ∑ i ∈ s, f i ≠ 0 :=
+  let ⟨i, hi⟩ := Finset.nonempty_iff_ne_empty.2 hs
+  sum_ne_zero_of_injOn_supDegree' ⟨i, hi, hf i hi⟩ hd
+
+variable [Add B]
+variable [CovariantClass B B (· + ·) (· < ·)] [CovariantClass B B (Function.swap (· + ·)) (· < ·)]
+
+lemma apply_supDegree_add_supDegree (hD : D.Injective) (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2) :
+    (p * q) (D.invFun (p.supDegree D + q.supDegree D)) = p.leadingCoeff D * q.leadingCoeff D := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:465]: Is this not basically saying `(p * q).leadingCoeff = p.leadingCoeff D * q.leadingCoeff D`? Can we have that?

Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:465]: Added `leadingCoeff_mul` below, but it seems to need `NoZeroDivisors`

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 21 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean]: Seems to be, in the sense that removing those lines complains. I've been trying very hard to avoid learning about these classes, so can't say anything more.

File: Mathlib/Algebra/Group/Subsemigroup/Operations.lean [hunk 23]
```diff
@@ -595,6 +595,18 @@ theorem coe_srange (f : M →ₙ* N) : (f.srange : Set N) = Set.range f :=
...
   Iff.rfl
 
+@[to_additive]
+private theorem srange_mk_aux_mul {f : M → N} (hf : ∀ (x y : M), f (x * y) = f x * f y)
+    {x y : N} (hx : x ∈ Set.range f) (hy : y ∈ Set.range f) :
+    x * y ∈ Set.range f := by
+  rw [Set.mem_range] at *
+  obtain ⟨x, rfl⟩ := hx
+  obtain ⟨y, rfl⟩ := hy
+  exact ⟨x * y, hf x y⟩
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Subsemigroup/Operations.lean:605]:
```suggestion
    x * y ∈ Set.range f := (srange ⟨f, hf⟩).mem_mul hx hy
```
Maybe even inline?

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 24]
```diff
@@ -309,6 +325,249 @@ theorem apply_add_of_supDegree_le (hadd : ∀ a1 a2, D (a1 + a2) = D a1 + D a2)
...
+  rw [add_comm, leadingCoeff_add_eq_left h]
+
+lemma supDegree_mem_support (hD : D.Injective) (hp : p ≠ 0) :
+    D.invFun (p.supDegree D) ∈ p.support := by
+  obtain ⟨a, ha, he⟩ := exists_supDegree_mem_support D hp
+  rwa [he, Function.leftInverse_invFun hD]
+
+@[simp]
+lemma leadingCoeff_eq_zero (hD : D.Injective) : p.leadingCoeff D = 0 ↔ p = 0 := by
+  refine ⟨(fun h => ?_).mtr, fun h => h ▸ leadingCoeff_zero⟩
```
Comment (YaelDillies) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:412]: That's evil syntax! I like it

**Review by YaelDillies — APPROVED** [review]
All looking good now

maintainer merge

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 25]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Damiano Testa
 -/
 import Mathlib.Algebra.MonoidAlgebra.Support
+import Mathlib.Order.Filter.Extr
```
Comment (mattrobball) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:7]: Should this all be in a new file?

Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:7]: `Order.Filter.Extr` is a very basic file that really shouldn't be using filters (and I have plans to do such a refactor), so I don't think it's worth cutting the import out.

Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:7]: Also, it only adds two transitive imports - and the import is needed for the two `supDegree` lemmas, not the bigger LinearOrder section.

**Comment by semorrison** [comment]
bors merge
